* source AMPLIGM1


V_V1         s 0 DC 1 AC 1
+SIN 1 1 1K 0 0 0
R_Rs			s	in+	1k  
R_Rb			in+	0	10k  
R_Ri			in+	in-	10k  
R_Rf1			in-	0	10k  
E_LAPLACE1		out	0	LAPLACE	{V(s)} {(1)/(-100 + s)}
R_RL			out	0	10k  
*R_Rf2			out	in-	100k  
